US06689922B1
In a manner similar to Example 63(c), by reacting 3.9 g (17 mmol) of 3-(5-methoxymethoxy-2-methoxyphenyl)-3-propanone with 8.7 g (34.8 mmol) of ethyl 4-diethylphosphonocrotonate, ethyl 5-(5-methoxymethoxy-2-methoxyphenyl)hepta-2,4-dienoate is obtained which is converted to ethyl 5-(5-hydroxy-2-methoxyphenyl)hepta-2,4-dienoate with concentrated sulphuric acid in ethanol 800 mg (17%).

reactant | 3-(5-methoxymethoxy-2-methoxyphenyl)-3-propanone | 17 mmol, 3.9 g | COCOC=1C=CC(=C(C1)C(CC)=O)OC | C12H16O4
reactant | ethyl 4-diethylphosphonocrotonate | 34.8 mmol, 8.7 g | C(C)OP(=O)(OCC)C/C=C/C(=O)OCC | C10H19O5P
product | ethyl 5-(5-methoxymethoxy-2-methoxyphenyl)hepta-2,4-dienoate | COCOC=1C=CC(=C(C1)C(=CC=CC(=O)OCC)CC)OC | C18H24O5
